US05137895
4-Amino-5-chloro-2-[(tetrahydro-2H-pyran-2-yl)methoxy]benzoic acid
A suspension of 50% sodium hydride/oil dispersion (1.00 g, 0.025 mole) in anhydrous dimethylformamide (40 ml) under nitrogen was treated with 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester (4.03 g, 0.020 mole), stirred for 30 minutes, then treated with 2-(bromomethy)tetrahydro-2H-pyran (4.66 g, 0.026 mole). The mixture was heated to 95°±5° C. for 1.5 hours, then cooled and added to water (250 ml). The aqueous mixture was extracted with ether (2×200 ml), and the combined ethereal solution was dried (magnesium sulfate), concentrated in vacuo, an taken up in 95% ethanol (40 ml), water (20 ml) and 50% sodium hydroxide (20 ml) were added, and the mixture was refluxed for one hour, cooled on an ice bath, and concentrated in vacuo in order to remove most of the ethanol. Water was added to a total volume of 200 ml, and the aqueous solution was extracted with ether (2×100 ml), cooled on an ice bath, and adjusted to pH~4 with concentrated hydrochloric acid (32 ml). A solid soon precipitated, and this was filtered, washed with water, air dried, and recrystallized from ethyl acetate to afford 3.45 g (60%) of the title compound as colorless crystals; mp 146.5°-147.5° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-amino-5-chloro-2-hydroxybenzoic acid methyl ester | 0.020 mole, 4.03 g | COC(C1=C(C=C(C(=C1)Cl)N)O)=O | C8H8ClNO3
reactant | 2-(bromomethy)tetrahydro-2H-pyran | 0.026 mole, 4.66 g | BrCC1OCCCC1 | C6H11BrO
reactant | water | 250 ml | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-Amino-5-chloro-2-[(tetrahydro-2H-pyran-2-yl)methoxy]benzoic acid | 3.45 g, 60% | NC1=CC(=C(C(=O)O)C=C1Cl)OCC1OCCCC1 | C13H16ClNO4
